US07935702B2
5. N,N-Bis-(4-methoxybenzyl)-(6-ethoxy-5-trifluoromethylpyridine-2-yl)amine
Add freshly prepared sodium ethoxide [made by adding sodium (1.26 g, 54.9 mmol) to 25 mL of absolute EtOH, and stirring until all the sodium is dissolved] dropwise to a solution of N,N-bis-(4-methoxybenzyl)-(6-chloro-5-trifluoromethyl-pyridine-2-yl)amine (8.0 g, 18.3 mmol) in 150 mL THF. Heat the reaction mixture to reflux for 45 hours. During reflux, the reaction mixture turns brown. After cooling to room temperature, remove the solvent under vacuum. Take up the residue in CH2Cl2 (150 mL) and wash with water (100 mL). Extract the aqueous layer once more with 100 mL CH2Cl2. Wash the combined CH2Cl2 extracts with brine (100 mL), dry (Na2SO4), filter, and evaporate to give a brown oil/solid mix. Purification by column chromatography affords the title product as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.51 (d, 1H, J=8.8 Hz), 7.13 (m, 4H), 6.86 (m, 4H), 6.0 (d, 1H, J=8.8 Hz), 4.67 (s, 4H), 4.37 (q, 2H, J=6.8 and 7.6 Hz), 3.80 (s, 6H), 1.32 (t, 3H, J=6.8 Hz). Mass spec. (447.34, M+H).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 54.9 mmol, 1.26 g | [Na] | Na
reactant | EtOH | 25 mL | CCO | C2H6O
reactant | N,N-bis-(4-methoxybenzyl)-(6-chloro-5-trifluoromethyl-pyridine-2-yl)amine | 18.3 mmol, 8.0 g | COC1=CC=C(CN(CC2=CC=C(C=C2)OC)C2=NC(=C(C=C2)C(F)(F)F)Cl)C=C1 | C22H20ClF3N2O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N,N-Bis-(4-methoxybenzyl)-(6-ethoxy-5-trifluoromethylpyridine-2-yl)amine | COC1=CC=C(CN(CC2=CC=C(C=C2)OC)C2=NC(=C(C=C2)C(F)(F)F)OCC)C=C1 | C24H25F3N2O3
